.SUBCKT BUFX6H7R A VDD VSS Y
*.PININFO A:I Y:O VDD:B VSS:B
XXI0 A VDD VSS net4 / INV pl=6e-08 pw=3.8e-07 nl=6e-08 nw=3e-07
XXI1 net4 VDD VSS Y / INV pl=6e-08 pw=1.14e-06 nl=6e-08 nw=9e-07
.ENDS
